US07691879B2
To a solution of 6-methoxy-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbonitrile (200 mg) in 40 mL ethanol were added Raney Ni and 4 mL of 2 M ammonia in methanol. The reaction was shaken under 50 psi H2 pressure overnight. The reaction was filtered and concentrated to give 178 mg of 3-(aminomethyl)-6-methoxy-4-phenylisoquinolin-1(2H)-one.

reactant | 6-methoxy-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbonitrile | 200 mg | COC=1C=C2C(=C(NC(C2=CC1)=O)C#N)C1=CC=CC=C1 | C17H12N2O2
reactant | ammonia | 2 M, 4 mL | N | H3N
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | methanol | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | 3-(aminomethyl)-6-methoxy-4-phenylisoquinolin-1(2H)-one | 178 mg | NCC=1NC(C2=CC=C(C=C2C1C1=CC=CC=C1)OC)=O | C17H16N2O2
